US04045456
A fluidized bed reactor equipped with a heating jacket is filled with 70 parts of aluminum silicate grit (25% by weight of SiO2 and 75% by weight of Al2O3 ; φ from 0.1 to 0.3 mm) and is heated to 305° C. The specific total surface area of the cyclizing agent is 400 square meters per gram. The catalyst is kept fluidized by means of 300 parts by volume of nitrogen/hour. Per hour, 70 parts of o-(4-chlorobenzoyl)-benzoic acid are fed into the reactor. The β-chloroanthraquinone formed is precipitated by scrubbing the stream of gas with water. The conversion is practically quantitative. Per hour, 62 parts (95% of theory) of β-chloroanthraquinone of melting point 203° to 205° C. are obtained.

reactant | aluminum silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3]
reactant | o-(4-chlorobenzoyl)-benzoic acid | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
product | β-chloroanthraquinone | C1=CC=C2C(=C1)C(=O)C3=C(C2=O)C=C(C=C3)Cl | C14H7ClO2
